US04304728
3-Bromo-6-(2-chlorophenyl)-4-oxo-4H-pyran-2-carboxylic acid
A stirred solution of ethyl 3-bromo-6-(2-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate (2.3 g) and boron tribromide (2.5 ml) in dichloromethane (25 ml) was heated under reflux for 4 hours. A tan solid precipitated out. Water (25 ml) was added to the cooled mixture and the yellow solid was filtered off. Recrystallisation from glacial acetic acid yielded the title product as off-white needles (mp 205°-207° C. with decomposition).

reactant | ethyl 3-bromo-6-(2-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate | 2.3 g | BrC1=C(OC(=CC1=O)C1=C(C=CC=C1)Cl)C(=O)OCC | C14H10BrClO4
reactant | boron tribromide | 2.5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-Bromo-6-(2-chlorophenyl)-4-oxo-4H-pyran-2-carboxylic acid | BrC1=C(OC(=CC1=O)C1=C(C=CC=C1)Cl)C(=O)O | C12H6BrClO4
